US05952325
5'-Amino-1,2,3,5,6,7-hexahydro-1-methyl-7-oxospiro[4H-azepine-4,3'(2H)-benzofuran]
This material was prepared from 1,2,3,5,6,7-hexahydro-1-methyl-5'-nitro-7-oxospiro[4H-azepine-4,3'(2H)-benzofuran] (D27, 0.68 g, 2.5 mmol) following the procedure of DESCRIPTION 6, but using acetic acid as solvent. This gave the title compound (0.19 g, 31%) as a white solid.

reactant | 1,2,3,5,6,7-hexahydro-1-methyl-5'-nitro-7-oxospiro[4H-azepine-4,3'(2H)-benzofuran] | 2.5 mmol, 0.68 g | CN1CCC2(COC3=C2C=C(C=C3)[N+](=O)[O-])CCC1=O | C14H16N2O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5'-Amino-1,2,3,5,6,7-hexahydro-1-methyl-7-oxospiro[4H-azepine-4,3'(2H)-benzofuran] | 0.19 g, 31% | NC=1C=CC2=C(C3(CO2)CCN(C(CC3)=O)C)C1 | C14H18N2O2
